US04461907
4',5,7-Trihydroxyflavanone (10.5 g) was stirred with acetic anhydride (50 ml) and sulphuric acid (5 drops) for 2 hr at room temperature, then poured into iced water. The product was extracted into ether and the extracted washed with water, followed by sodium bicarbonate solution. 4',5,7-Triacetoxyflavanone was obtained on evaporation of the ether, and this was dissolved in a mixture of tetrahydrofuran (250 ml) and ethanol (250 ml). Sodium borohydride (1.2 g) was added over 5 min, and the solution stirred for 30 min. Further borohydride (1.8 g) was then added and stirring continued for a further 30 min. The solution was acidifed by cautious addition of glacial acetic acid (8 ml). The solvent was evaporated off and the residual oil extracted into chloroform, washed with water, dried and evaporated.

reactant | 4',5,7-Trihydroxyflavanone | 10.5 g | OC1=CC=C(C2OC3=CC(=CC(=C3C(C2)=O)O)O)C=C1 | C15H12O5
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulphuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4',5,7-Triacetoxyflavanone | C(C)(=O)OC1=CC=C(C2OC3=CC(=CC(=C3C(C2)=O)OC(C)=O)OC(C)=O)C=C1 | C21H18O8
